US06987114B1
1-(Pyridin-2-ylmethyl)-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione and 2-picolyl chloride were reacted by the same way with the example 1 to obtain the titled compound (98 mg, yield: 26.7%).

reactant | 5-Ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | C(C)C=1C(NC(NC1SC1=CC(=CC(=C1)C)C)=O)=O | C14H16N2O2S
reactant | 2-picolyl chloride | N1=C(C=CC=C1)CCl | C6H6ClN
product | 1-(Pyridin-2-ylmethyl)-5-ethyl-6-(3,5-dimethylphenyl)thio-2,4-pyrimidinedione | 98 mg, yield: 26.7% | N1=C(C=CC=C1)CN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)CC)=O)=O | C20H21N3O2S
